US06933384B2
4′,5′-dimethylfluorescein
In a round bottom flask, phthalic anhydride (16.7 g, 113 mmol) and 2-methylresorcinol (24.9 g, 201 mmol) were combined and melted into a brown liquid at 150° C. Fused ZnCl2 (15 g, 110 mmol) was added over 40 min, and the temperature was slowly increased to 230° C. until all material solidified. The brick red solid was pulverized and boiled in 6M HCl for 30 min. The red solid was collected on a glass frit, washed with water, and dried in air over night (yield: 32.62 g, 91% of the theoretical yield).

reactant | phthalic anhydride | 113 mmol, 16.7 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 2-methylresorcinol | 201 mmol, 24.9 g | CC1=C(O)C=CC=C1O | C7H8O2
solvent | HCl | 6M | Cl | ClH
catalyst | ZnCl2 | 110 mmol, 15 g | [Cl-].[Cl-].[Zn+2]
product | 4′,5′-dimethylfluorescein | CC1=C(C=CC2=C1OC3=C(C24C5=CC=CC=C5C(=O)O4)C=CC(=C3C)O)O | C22H16O5
